US06924374B2
cis-4-(4-Fluoro-3-trifluoromethyl-phenyl)-2,6-dimethyl-1-propyl-piperazine
Beginning with 5-bromo-2-fluorobenzotrifluoride and cis-2,6-dimethyl-1-propyl-piperazine, the title compound was recovered by the procedure described in Preparation 9: m.p. 221° C. (HCl), MS m/z (rel. intensity, 70 eV)) 318 (M+, 32), 289 (74), 112 (bp), 70 (71), 56 (85).

reactant | 5-bromo-2-fluorobenzotrifluoride | BrC=1C=CC(=C(C1)C(F)(F)F)F | C7H3BrF4
reactant | cis-2,6-dimethyl-1-propyl-piperazine | C[C@@H]1N([C@@H](CNC1)C)CCC | C9H20N2
reactant | HCl | Cl | ClH
product | cis-4-(4-Fluoro-3-trifluoromethyl-phenyl)-2,6-dimethyl-1-propyl-piperazine | FC1=C(C=C(C=C1)N1C[C@@H](N([C@@H](C1)C)CCC)C)C(F)(F)F | C16H22F4N2
